US08685969B2
1. Benzyl 2-methyl-3-(1-(6-morpholino-1H-indol-3-yl)-2-nitroethyl)phenylcarbamate
A solution of 4-(1H-indol-6-yl)morpholine (1.1132 g, 5.50 mmol) and (E)-benzyl 2-methyl-3-(2-nitrovinyl)phenylcarbamate (2.58 g, 8.26 mmol) in THF (50 mL) was concentrated in vacuo. The residue was melted at 137° C. and stirred overnight. After cooling to room temperature, the crude product was purified by flash chromatography using an ISCO 330 g column (solid loading) eluting with 40-80% EtOAc/hexanes to give the desired product (0.9544 g, 1.855 mmol, 33.7% yield) as a light brown solid.

reactant | 4-(1H-indol-6-yl)morpholine | 5.50 mmol, 1.1132 g | N1C=CC2=CC=C(C=C12)N1CCOCC1 | C12H14N2O
reactant | (E)-benzyl 2-methyl-3-(2-nitrovinyl)phenylcarbamate | 8.26 mmol, 2.58 g | CC1=C(C=CC=C1\C=C\[N+](=O)[O-])NC(OCC1=CC=CC=C1)=O | C17H16N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Benzyl 2-methyl-3-(1-(6-morpholino-1H-indol-3-yl)-2-nitroethyl)phenylcarbamate | 1.855 mmol, 0.9544 g, 33.7% yield | CC1=C(C=CC=C1C(C[N+](=O)[O-])C1=CNC2=CC(=CC=C12)N1CCOCC1)NC(OCC1=CC=CC=C1)=O | C29H30N4O5
